US05475106
2-[N-(3-Methoxyphenyl)isocyanatoacetamido]-N-methyl-N-phenylacetamide (3 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of 3-(1-hydroxyethyl)aniline (1.1 g) in anhydrous tetrahydrofuran (20 cc). The solution obtained is stirred for 16 hours at a temperature in the region of 20° C. and then concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residual oil is purified by chromatography on silica (0.063-0.2 mm) (150 g) contained in a column 2.5 cm in diameter) [eluent: dichloromethane/methanol (98:2 by volume)], collecting 20-cc fractions. The fractions containing only the desired product are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallisation in diisopropyl ether, (RS)-2-[2-{3-[3-(1-hydroxyethyl)phenyl]ureido}-N-(3-methoxyphenyl)acetamido]-N-methyl-N-phenylacetamide (1.7 g), m.p. 115° C., is thereby obtained.

reactant | 2-[N-(3-Methoxyphenyl)isocyanatoacetamido]-N-methyl-N-phenylacetamide | 3 g | COC=1C=C(C=CC1)N(C(CN=C=O)=O)CC(=O)N(C1=CC=CC=C1)C | C19H19N3O4
reactant | 3-(1-hydroxyethyl)aniline | 1.1 g | OC(C)C=1C=C(N)C=CC1 | C8H11NO
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
product | (RS)-2-[2-{3-[3-(1-hydroxyethyl)phenyl]ureido}-N-(3-methoxyphenyl)acetamido]-N-methyl-N-phenylacetamide | 1.7 g | OC(C)C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC(=CC=C1)OC)CC(=O)N(C1=CC=CC=C1)C)=O | C27H30N4O5
